US07112553B1
Sodium methoxide (0.42 g, 0.0078 mol) was added to a solution of 5-amino-4-chloro-3-methylisothiazole (0.46 g, 0.0031 mol) in tetrahydrofuran (THF) (15 ml) and the mixture was stirred at ambient temperature for 15 minutes. A solution of ethyl[2-(2-methylpropyl)indazol-5-yl]acetate (0.80 g, 0.0031 mol) in THF was added dropwise and, once the addition was complete, the mixture was stirred at ambient temperature for 3 hours. The mixture was partitioned between ethyl acetate and saturated aqueous ammonium chloride solution and then the organic extract was dried over anhydrous magnesium sulfate, filtered and the filtrate was evaporated in vacuo. The residue was triturated with diethyl ether to give N-(4-chloro-3-methylisothiazol-5-yl)-[2-(2-methylpropyl)indazol-5-yl]acetamide (0.78 g) as a pale-brown solid (m.p. 133–135° C.).

reactant | Sodium methoxide | 0.0078 mol, 0.42 g | C[O-].[Na+]
reactant | 5-amino-4-chloro-3-methylisothiazole | 0.0031 mol, 0.46 g | NC1=C(C(=NS1)C)Cl | C4H5ClN2S
reactant | ethyl[2-(2-methylpropyl)indazol-5-yl]acetate | 0.0031 mol, 0.80 g | C(C)OC(CC1=CC2=CN(N=C2C=C1)CC(C)C)=O | C15H20N2O2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | N-(4-chloro-3-methylisothiazol-5-yl)-[2-(2-methylpropyl)indazol-5-yl]acetamide | 0.78 g | ClC=1C(=NSC1NC(CC1=CC2=CN(N=C2C=C1)CC(C)C)=O)C | C17H19ClN4OS
